* Admittance Multiplier
* 1,2 control voltage +/-
* 3,0 reference admittance Yref
* 4,5 output node, Z = V(1,2)*Zref
* Condition: V(1,2) > 0
*
.subckt Y_mult 1 2 3 4 5

*based on Ideal_Transformer.asc
*but voltage_ratio = sqrt(1/V(1,2))
G1 0 x1 0 3 1
G3 0 3 x1 0 1
R1 x1 0 1G
B5 4 5 I=V(x1)/SQRT(1/V(1,2))
B6 0 x1 I=V(4,5)/SQRT(1/V(1,2))

.ends
